US05985895
4-(4-Phenyl-1,2,3,6-tetrahydropyridinyl)-butyronitrile
5 g of 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride (very toxic compound: New Engl. J. Med., 1983, 309, 310; Science, 1983, 219, 979; Psychiatry Res., 1979, 1, 249) and then 100 ml of acetonitrile are introduced into a 250 ml round-bottomed flask. 2.5 equivalents of anhydrous potassium carbonate are added and then 1.05 equivalents of 4-bromobutyronitrile, in solution in acetonitrile, are added dropwise. The mixture is heated at reflux for 16 hours and then filtered, the precipitate is washed with acetone and the filtrate is concentrated. The residue is taken up in ethyl acetate and washed 3 times with water. The organic phase is extracted with a 3M hydrochloric acid solution and the acid phase is washed with ethyl acetate. The acid phase is neutralized with 28% aqueous ammonia to pH>11. Extraction is carried out with ethyl acetate, the organic phase is washed with water and dried over anhydrous sodium sulphate and the mixture is concentrated. The nitrile is purified by chromatography on a silica column (eluent: ethyl acetate/hexane 80/20). White crystals are obtained. M.p.=57-59° C. Y=79%. 1H NMR (CDCl3, 330K): 1.81-1.95 (m, 2H, --CH2 --, 2.40-2.48 (t, 2H, --CH2 --), 2.54-2.60 (t, 4H, --H2C--CH2 --), 2.67-2.72 (t, 2H, --CH2 --), 3.12-3.17 (q, 2H, --CH2 --), 6.06-6.09 (m, 1H, --CH=), 7.24-7.44 (m, 5H, phe). 13C NMR (CDCl3): 14.7 (--CH2 --CH2 --C≡N), 22.8 (--CH2 --C≡N), 27.7 (>C--CH2 --CH2 --N<, pyrid), 50.0 (--CH2 --CH2 --N<, pyrid), 52.9 (=CH--CH2 --N<, pyrid), 55.9 (>N--CH2 --), 119.6 (--CN), 121.3 (>CH--), 124.6 (=CH--, pyri), 126.8 (>(CH)2 --), 128.1 (>CH)2 --), 134.7 (>C=C--, pyri), 140.4 (>C<).

reactant | 4-phenyl-1,2,3,6-tetrahydropyridine hydrochloride | 5 g | Cl.C1(=CC=CC=C1)C=1CCNCC1
reactant | potassium carbonate | 2.5 equivalents | C([O-])([O-])=O.[K+].[K+]
reactant | 4-bromobutyronitrile | 1.05 equivalents | BrCCCC#N | C4H6BrN
solvent | acetonitrile | C(C)#N | C2H3N
solvent | acetonitrile | 100 ml | C(C)#N | C2H3N
product | 4-(4-Phenyl-1,2,3,6-tetrahydropyridinyl)-butyronitrile | C1(=CC=CC=C1)C=1CCN(CC1)CCCC#N | C15H18N2
